US04929622
1,2,3,4,5,6,7,8-Octahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine
To a stirred solution of 2.24 g of 1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine and 23 ml of acetic acid, cooled to 15° C. under nitrogen, was added 1.70 g of sodium cyanoborohydride. The reaction mixture was stirred for an additional 2 hr and 90 ml of water was added. The solution was made basic (pH 12) with 50% aqueous sodium hydroxide solution and extracted with dichloromethane-ether. The combined organic layers were washed with brine, dried over anhydrous potassium carbonate, filtered and concentrated. The residue was purified by flash chromatography (alumina, ether). Recrystallization from ether/pentane gave 1.55 g (69%) of product, mp 126°-128° C.

reactant | 1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 2.24 g | CN1C2CC3=C1CCC1=C3C=CCN=CC1(C2C)C | C17H22N2
reactant | acetic acid | 23 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1.70 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 90 ml | O | H2O
product | 1,2,3,4,5,6,7,8-Octahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 1.55 g, 69% | CN1C2CC3=C1CCC1=C3C=CCNCC1(C2C)C | C17H24N2
